US06960591B2
To a boiling suspension of sodium hydride (60% in oil) (360 mg) in anhydrous THF (10 ml) was added dropwise a solution of acetophenone (720 mg) and ethyl 2-methylthiazol-4-carboxylate (1.20 g) in anhydrous THF (10 ml), followed by 10 minutes of heating under refluxing. After the reaction solution was cooled, a mixed solution of acetic acid (1 ml) and water (30 ml) was added thereto, and the resulting mixture was extracted with ethyl acetate. The extracted solution was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent: hexane:ethyl acetate=4:1 (v/v)) to obtain 1-(2-methylthiazol-4-yl)-3-phenylpropan-1,3-dione (1.3 g, 88%) as yellow crystals. Hereinafter, the compounds of Reference Examples 2 to 10 were obtained similarly.

reactant | sodium hydride | 360 mg | [H-].[Na+]
reactant | acetophenone | 720 mg | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ethyl 2-methylthiazol-4-carboxylate | 1.20 g | CC=1SC=C(N1)C(=O)OCC | C7H9NO2S
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 1-(2-methylthiazol-4-yl)-3-phenylpropan-1,3-dione | 1.3 g, 88% | CC=1SC=C(N1)C(CC(=O)C1=CC=CC=C1)=O | C13H11NO2S
